US05045552
20 cc of ethanol was added to a mixture comprising 280 mg (1.8 mmol) of 2-mercapto-1H-benzimidazole, 470 mg (2 mmol) of 2-chloromethyl-4-(3-methoxypropoxy)-3-methylpyridine and 100 mg (2.4 mmol) of sodium hydroxide. The obtained mixture was stirred at 50° C. for 3 hours. After the completion of the reaction, the reaction mixture was distilled to remove the ethanol. The obtained residue was purified by silica gel column chromatography to obtain 590 mg of 2-[{4-(3-methoxypropoxy)-3-methylpyridine-2-yl}methylthio]-1H-benzimidazole as a pale yellow crystal.

reactant | 2-mercapto-1H-benzimidazole | 1.8 mmol, 280 mg | SC1=NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 2-chloromethyl-4-(3-methoxypropoxy)-3-methylpyridine | 2 mmol, 470 mg | ClCC1=NC=CC(=C1C)OCCCOC | C11H16ClNO2
reactant | sodium hydroxide | 2.4 mmol, 100 mg | [OH-].[Na+]
solvent | ethanol | 20 cc | C(C)O | C2H6O
product | 2-[{4-(3-methoxypropoxy)-3-methylpyridine-2-yl}methylthio]-1H-benzimidazole | 590 mg | COCCCOC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C18H21N3O2S
